US05780465
33. Preparation of 5-(2,2-Dimethyltetralin-1-yl)-4-(monofluoromethylthio)pyrimidine (Cpd. 129)
To a solution of 2.0 g (7.0 mmol) of 5-(2,2-dimethyltetralin-1-yl)-4-methylthiopyrimidine in 100 mL of dry acetonitrile was added with stirring 3.0 g (9.1 mmol) of 1-chloromethyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate). The mixture was allowed to react for 16 hours and then most of the acetonitrile was removed by evaporation under reduced pressure. The residue was partitioned between ether and water and the organic phase was recovered, dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure. The residual oil was purified by column chromatography on silica gel to obtain 700 mg of the title compound as a tan solid melting at 126°-128° C.

reactant | 5-(2,2-dimethyltetralin-1-yl)-4-methylthiopyrimidine | 7.0 mmol, 2.0 g | CC1(C(C2=CC=CC=C2CC1)C=1C(=NC=NC1)SC)C | C17H20N2S
reactant | 1-chloromethyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) | 9.1 mmol, 3.0 g | F[B-](F)(F)F.F[B-](F)(F)F.ClC[N+]12CC[N+](CC1)(CC2)F
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 5-(2,2-Dimethyltetralin-1-yl)-4-(monofluoromethylthio)pyrimidine | 700 mg | CC1(C(C2=CC=CC=C2CC1)C=1C(=NC=NC1)SCF)C | C17H19FN2S
